US08461107B2
Intermediate D9: 3-Allyl-2-hydroxy-4H-pyrido[1,2-a]pyrimidin-4-one
2-aminopyridine (996 mg, 10.58 mmol) and diethyl allylmalonate (2098 μl, 10.58 mmol) were combined and heated to 160° C. neat for 9 hours. The brown solution solidified upon cooling to room temperature. The solid was filtered and washed with Et2O to yield the title compound as a tan solid (580 mg, 27%) LCMS (ES+) m/z 203.02 (M+H)+.

reactant | 2-aminopyridine | 10.58 mmol, 996 mg | NC1=NC=CC=C1 | C5H6N2
reactant | diethyl allylmalonate | 10.58 mmol, 2098 μl | C(C=C)C(C(=O)OCC)C(=O)OCC | C10H16O4
product | 3-Allyl-2-hydroxy-4H-pyrido[1,2-a]pyrimidin-4-one | 580 mg, 27% | C(C=C)C1=C(N=C2N(C1=O)C=CC=C2)O | C11H10N2O2
